US07795262B2
Step 2. Preparation of 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinolin-6-ol
To a mixture of 6-(benzyloxy)-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline (2.5 g, 5.96 mmol) in EtOH (30 ml) is added 10% Pd(OH)2/C (0.5 g). The mixture is hydrogenated at 45 psi for 2 hr. The mixture is filtered through celite and washed with EtOH. The solvent is removed under reduced pressure to give the title compound. MS (+VE) m/z 330.2 (M+1).

reactant | 6-(benzyloxy)-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline | 5.96 mmol, 2.5 g | C(C1=CC=CC=C1)OC=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C26H33N3O2
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Pd(OH)2/C | 0.5 g | [OH-].[OH-].[Pd+2]
product | 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinolin-6-ol | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)O)=O | C19H27N3O2
